US04886794
α,α-Bis(p-fluorophenyl)-4-piperidinemethanol
A solution of 31.2 g (0.079 mole) of α,α-bis-(4-fluorophenyl)-1-(phenylmethyl)-4-piperidinemethanol in 400 ml of absolute ethanol was hydrogenated at 50 psi and 70° C. over 5% palladium-on-carbon over the weekend. The mixture was filtered and the filtrate was concentrated under reduced pressure to give a gum as residue. Methylene chloride was added to the residue and the gum crystallized. The mixture was diluted with petroleum ether and the solid was collected by filtration, washed with petroleum ether and dried to yield 22 g (99%) of white solid which was recrystallized from isopropyl ether and 2-propanol, m.p. 159.5°-160.5° C.

reactant | α,α-bis-(4-fluorophenyl)-1-(phenylmethyl)-4-piperidinemethanol | 0.079 mole, 31.2 g | FC1=CC=C(C=C1)C(O)(C1CCN(CC1)CC1=CC=CC=C1)C1=CC=C(C=C1)F | C25H25F2NO
reactant | Methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethanol | 400 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | [Pd] | Pd
product | α,α-Bis(p-fluorophenyl)-4-piperidinemethanol | 22 g, 99% | FC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2NO
